US04227014
Preparation of 3-pyridyl 4-(8-cyclohexyloctylamino)benzoate
A 6 g. sample of 4-(8-cyclohexyloctylamino)benzoic acid and 2.7 g. 1,1'-carbonyldiimidazole in 50 ml. dry tetrahydrofuran is stirred for 2 hours. Then, 1.58 g. 3-hydroxypyridine and a trace of sodium hydride catalyst is added and the reaction is refluxed for 3 hours. The solution is cooled, filtered, and evaporated. The product is crystallized from isopropanol.

reactant | 4-(8-cyclohexyloctylamino)benzoic acid | C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C21H33NO2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
catalyst | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-pyridyl 4-(8-cyclohexyloctylamino)benzoate | C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)OC=2C=NC=CC2)C=C1 | C26H36N2O2
